US06462198B1
Diphenylacetyl-carbamic acid 2-morpholin-4-yl-ethyl ester
The title compound, white solid, m.p.=135-137° C. and MS: m/e=369.3 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and 2-morpholin-4-yl-ethanol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | 2-morpholin-4-yl-ethanol | N1(CCOCC1)CCO | C6H13NO2
product | Diphenylacetyl-carbamic acid 2-morpholin-4-yl-ethyl ester | N1(CCOCC1)CCOC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C21H24N2O4
